US04463002
In the same manner as Example 1, sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer) was reacted with 1-bromopropyl propionate in the presence of sodium iodide to give 1-propionyloxypropyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer), mp 100°-108° C. (decompn.).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | 1-bromopropyl propionate | C(CC)(=O)OC(CC)Br | C6H11BrO2
reactant | sodium iodide | [I-].[Na+]
product | 1-propionyloxypropyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(CC)OC(CC)=O)C1=O)=NOC | C19H23N5O7S2
